* OPA549
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA549
* Date: 22JUL2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS093E – MARCH 1999 – REVISED OCTOBER 2005
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
******************************************************************************
* CONNECTIONS:  VOUT

*               |   VOUT

*               |   |   INVERTING INPUT 

*               |   |   | NON-INVERTING INPUT

*               |   |   | | NEGATIVE POWER SUPPLY 

*               |   |   | | |   REF VOLTAGE FOR CONTROL PINS (ES AND ILIM)

*               |   |   | | |   |   NEGATIVE POWER SUPPLY

*               |   |   | | |   |   |   CURRENT LIMIT ADJUST

*               |   |   | | |   |   |   |   ENABLE/STATUS

*               |   |   | | |   |   |   |   |  POSITIVE POWER SUPPLY

*               |   |   | | |   |   |   |   |  |  POSITIVE POWER SUPPLY

*               |   |   | | |   |   |   |   |  |  |

.SUBCKT OPA549 OUT OUT2 - + V- REF V-2 LIM ES V+ V+2

Q2 N18 N16 N14 PSUB

R3 N13 N14 8.4K

Q1 N13 N12 N61 LAT5

R15 N40 VMINUS .168

Q9 VPLUS N34 N35 NMIN 2382

Q4 N25 N26 VMINUS NMAX 2

HCCVSP N47 N36 V475 -2650

HCCVSN N42 VMINUS V475 -2650

GNEGDRV VPLUS N37 N31 N36 -.00025

R4 N13 N15 8.4K

GAINBLK N26 VMINUS N18 N19 .00175

R8 N19 VMINUS 1K

R6 N17 + 1K

R5 - N16 1K

R7 N18 VMINUS 1K

C2 N37 N36 11PF

C1 N26 N25 31PF

Q3 N19 N17 N15 PSUB

Q7 VPLUS N37 N38 NMIN 128

R17 N38 VMINUS 180

D6 N32 N31 DIODE 18

D3 N27 N26 DIODE 1

D5 N27 N37 DIODE 10

D2 N23 N22 DIODE 6

D1 N60 N12 DIODE 6

VCLMP N27 VMINUS DC 1.1

VDUM N20 VMINUS DC 0

R9 N21 N20 35K

C3 N21 N1N677 15PF

FICOMP N37 VMINUS VDUM 1

D4 N29 N28 DIODE 1

R13 N28 VMINUS 750

Q6 N31 N29 N30 NMIN 2

R14 N30 VMINUS 300

R18 N39 N38 18

DCLAMP N37 N36 DIODE 1

R12 N1N677 N33 80

R31 N32 N34 1.9

V475 N43 Ref DC 4.75

GCLPGAIN VPLUS N51 N35 N47 .00015

Q11 N25 N51 N36 NMIN 1

C5 N51 N25 20PF

D7 N48 N51 DIODE 1

VDP N48 N36 DC .65

R21 Lim N43 7500

D8 N49 N41 DIODE 1

Q12 N37 N41 VMINUS NMIN 1

GCLNGAIN VPLUS N41 N40 N42 .00015

V1I459 N49 VMINUS DC .65

C6 N41 N37 20PF

DZ1 N31 N1N384 ZEN

VCM VPLUS N59 DC 1.4

D9 N45 N46 DIODE 1

D10 N45 ES DIODE 1

IBES VPLUS N45 60UA

R22 ES Ref 250K

VBES N46 Ref DC 3.6

R16 N32 N36 500

R0 N35 N36 .168

VTHES N44 Ref DC 2.0

DP2 VMINUS - DIODE 1

DP1 - VPLUS DIODE 1

DP4 VMINUS + DIODE 1

DP3 + VPLUS DIODE 1

DP5 Ref VPLUS DIODE 10

DP6 VMINUS Ref DIODE 50

DP8 VMINUS Lim DIODE 1

DP7 Lim VPLUS DIODE 1

DP9 ES VPLUS DIODE 1

DP10 VMINUS ES DIODE 1

SVCS1    N36 OUTPUT N45 N44  VSM

SVCS2    N32 N31 N45 N44  VSM2

CS2 VMINUS - 3PF

CS1 VMINUS + 3PF

CS3 - + 2.5PF

Q5 N25 N22 N24 LAT5

Q20 VPLUS N1N667 N1N677 NMIN 8

R11 N1N677 N32 2K

R1 VPLUS N24 300

R30 N25 N1N667 2K

D20 N36 N1N384 DIODE 18

RDUMMY1 V+ VPLUS 1E-4

RDUMMY2 V+2 VPLUS 1E-4

RDUMMY3 VMINUS V- 1E-4

RDUMMY5 Out OUTPUT 1E-4

RDUMMY6 Out2 OUTPUT 1E-4

RDUMMY4 VMINUS V-2 1E-4

DP11 OUTPUT VPLUS DIODE 1

DP12 VMINUS OUTPUT DIODE 1

R10 VPLUS N23 300

I2 N22 N29 250UA

Q10 N36 N39 N40 NMIN 2382

Q8 VPLUS N33 N32 NMIN 80

I1 N12 VMINUS 100UA

R2 N59 N61 1K

R19 N59 N60 1K

*
 
* DEVICE MODELS

.MODEL ZEN D(IS=6E-16 CJO=1E-15 RS=1 BV=.2)

.MODEL LAT5 PNP(IS=4E-15 BF=80 VAF=80 CJE=1E-13 CJC=6E-13  TF=3.5E-8

+ RC=1.2E3 )

.MODEL PSUB PNP(IS=6E-16 BF=360 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10  

+ RC=1.2E3)

.MODEL NMAX NPN(IS=6E-16 BF=1200 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10  

+ RC=0.6E3)

.MODEL NMIN NPN(IS=6E-16 BF=300 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10  

+ RC=0.6E3)

.MODEL DIODE D(IS=6E-16 CJO=1E-15 RS=1)

.MODEL VSM2 VSWITCH(RON=1500 ROFF=1E7 VON=1.9 VOFF=2.1)

.MODEL VSM VSWITCH(RON=.1 ROFF=5E5 VON=2.1 VOFF=1.9)

*

.ENDS OPA549
*
